Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___
 
Chief Complaint:
dizziness, vomiting
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Neurology at bedside for evaluation after code stroke 
activation/consult within: 5 minutes Time (and date) the patient 
was last known well: 22:00 on ___ clock) ___ Stroke Scale 
Score: t-PA given: --- No Reason t-PA was not given or 
considered: out of window 

Thrombectomy performed: [] Yes [X] No --- If no, reason 
thrombectomy was not performed or considered: Vert 
thrombus/occlusion

I was present during the CT scanning and reviewed the images 
instantly within 20 minutes of their completion.

The NIHSS was performed: Date: ___ Time: 15:10 (within 6 
hours of patient presentation or neurology consult) ___ Stroke 
Scale score was : 2 1a. Level of Consciousness: 0 1b. LOC 
Question: 0 1c. LOC Commands: 0 2. Best gaze: 0 3. Visual 
fields: 0 4. Facial palsy: 0 5a. Motor arm, left: 0 5b. Motor 
arm, right: 0 6a. Motor leg, left: 0 6b. Motor leg, right: 0 7. 
Limb Ataxia: 1 8. Sensory: 1 9. Language: 0 10. Dysarthria: 0 
11. Extinction and Neglect: 0 REASON FOR CONSULTATION: Code 
stroke HPI: 

___ is a ___ man with a past medical 
history significant for R leg dvt now improved and complex 
regional pain syndrome, hypertension, and concussion s/p MVA 
last ___ subsequently found to have a L vert dissection on 
imaging done in ___ (presumably done at ___, 
patient does not remember). He presents today as a transfer from 
___ after developing acute onset ataxia, vertigo 
when he woke up at 2:30 AM today. 

Briefly, the patient was in a car accident last ___. He 
subsequently developed headaches and neck pain. After the 
headaches were worsening he underwent a CTA head and neck in 
___ (patient thinks it was at ___) where a L vert. 
dissection was found. The patient was then referred to see a 
"stroke neurologist" at ___ but his appointments kept 
getting cancelled and so he had not yet seen anyone. He was not 
put on aspirin. 

Yesterday the patient was feeling well and went to sleep at 
10pm. He woke up at around ___ AM feeling dehydrated and like 
he had to use the bathroom. When he opened his eyes he noted 
that the whole house was spinning around him. He tried to sit up 
and get out of bed but he was falling over. It took him a very 
long time to become steady on his feet. He needed his wife's 
help to walk to the bathroom. This morning he was still 
constantly symptomatic and started to vomit x3. Due to these 
symptoms EMS was called and he was brought to ___ 
___. 

At ___ concern was for acute stroke, he 
underwent CT head and CTA head and neck. CTA head and neck 
revealed occlusion of the L vert from the origin up until V4 
with only trace flow. No clear infarct seen on CT head. He was 
subsequently transferred to ___ and code stroke was activated. 


At ___, repeat head imaging obtained and showed same findings 
on CTA head and neck, no clear infarct on CT head though 
possibly more hypodensity in L cerebellum though not very clear. 


Patient states he is not taking any antiplatelets. He has never 
had vertigo or neurologic symptoms prior to onset early this AM.
 
Past Medical History:
Left vertebral artery dissection
HTN
Complex regional pain syndrome
H/o right leg DVT
 
Social History:
___
Family History:
No family history of neurologic illness
 
Physical Exam:
ADMISSION
Vitals: T 97.0, HR 71, BP 137/91, RR 95% RA 
General: Awake, cooperative, NAD.
HEENT: NC/AT, no scleral icterus noted, MMM, no lesions noted in
oropharynx
Skin: no rashes or lesions noted.
 
Neurologic:
-Mental Status: Alert, oriented x self, date, location. Able to
relate history without difficulty. Attentive, able to name ___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm, L pupil slightly irregular. No
skew. EOMI but he has nystagmus on L gaze that does not
extinguish, L beating. R gaze has ___ beats of nystagmus towards
the R. Upgaze has torsional left beating nystagmus. 
V: L V1-V3 decreased to light touch by 50% compared to R
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. L arm ataxic. Normal finger tap

  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5   5     5     5   
R  5    ___   ___    5   5     5     5   

-Sensory: No deficits to light touch throughout the rest of the
body. 

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1

Plantar response was flexor bilaterally.

-Coordination:  Normal finger-tap bilaterally. Bilateral
dysmetria on FNF, worse on L but patient having difficulty
keeping eyes open due to vertigo so on R he was also inaccurate.
on HKS no dysmetria bilaterally. Difficulty with mirroring on L. 


 -Gait: Deferred 
=======================
DISCHARGE
VITALS:
24 HR Data (last updated ___ @ 921)
    Temp: 97.5 (Tm 98.4), BP: 136/93 (129-152/76-95), HR: 73 
(61-88), RR: 20 (___), O2 sat: 96% (95-99), O2 delivery: RA  

-Mental Status: Alert, oriented x self, date, location. Able to
relate history without difficulty. Attentive, able to name ___
backward without difficulty. Language is fluent with intact
repetition and comprehension. Normal prosody. There were no
paraphasic errors. Pt was able to name both high and low
frequency objects.  

-Cranial Nerves:
II, III, IV, VI:  PERRL 4 to 3mm. No skew. EOMI no longer with 
direction changing nystagmus. 
V: Sensation intact to light touch bilaterally
VII: No facial droop, facial musculature symmetric.
VIII: Hearing intact to finger-rub bilaterally.
IX, X: Palate elevates symmetrically.
XI: ___ strength in trapezii bilaterally.
XII: Tongue protrudes in midline with good excursions. Strength
full with tongue-in-cheek testing.

-Motor: Normal bulk, tone throughout. No pronator drift
bilaterally. Mild intention tremor bilaterally.

  Delt Bic Tri WrE  FE  IP Quad Ham  TA ___  ___ 
L  5    ___   ___    5   5     5     5   
R  5    ___   ___    5   5     5     5   
-Sensory: Normal to light touch and pinprick throughout

-DTRs:
  Bi Tri ___ Pat Ach
L  2  2    2    2   1
R  2  2    2    2   1

Plantar response was extensor on right, plantar on left

-Coordination:  Normal finger-tap bilaterally. Normal FNF and 
HKS
-Gait: Narrow based, steady gait with normal arm strides. 
Significant swaying and begins to fall to left on ___

 
Pertinent Results:
ON ADMISSION:
==============
___ 08:26AM BLOOD WBC-8.6 RBC-4.57* Hgb-14.7 Hct-42.8 
MCV-94 MCH-32.2* MCHC-34.3 RDW-12.5 RDWSD-42.8 Plt ___
___ 08:26AM BLOOD ___ PTT-25.6 ___
___ 01:45PM BLOOD Glucose-124* UreaN-15 Creat-0.7 Na-142 
K-4.6 Cl-104 HCO3-23 AnGap-15
___ 08:26AM BLOOD ALT-29 AST-19 LD(LDH)-160 CK(CPK)-67 
AlkPhos-73 TotBili-0.3
___ 01:45PM BLOOD cTropnT-<0.01
___ 08:26AM BLOOD Albumin-4.4 Calcium-9.3 Phos-3.0 Mg-2.0 
Cholest-228*
___ 08:26AM BLOOD %HbA1c-5.9 eAG-123
___ 08:26AM BLOOD Triglyc-243* HDL-35* CHOL/HD-6.5 
LDLcalc-144*
___ 08:26AM BLOOD TSH-2.9
___ 01:45PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG

ON DISCHARGE:
===============
___ 10:30AM BLOOD WBC-7.1 RBC-4.63 Hgb-15.1 Hct-42.8 MCV-92 
MCH-32.6* MCHC-35.3 RDW-12.4 RDWSD-42.1 Plt ___
___ 10:30AM BLOOD ___ PTT-26.0 ___
___ 10:30AM BLOOD Glucose-200* UreaN-17 Creat-0.8 Na-141 
K-3.9 Cl-105 HCO3-24 AnGap-12
___ 08:26AM BLOOD ALT-29 AST-19 LD(LDH)-160 CK(CPK)-67 
AlkPhos-73 TotBili-0.3

DIAGNOSTICS:
==============
___ TTE:
The visually estimated left ventricular ejection fraction is 
55-60%. Left ventricular cardiac index is normal (>2.5 
L/min/m2). 
IMPRESSION: 
1) No evidence for right-to-left intracardiac shunt at rest or 
with maneuvers. 
2) Mild RV dilation in setting of normal RV function and 
afterload.

MEASUREMENTS:
LEFT ATRIUM ___ ATRIUM (RA)
___: 3.9cm (nl<=4.0)
___ 4Chamber Length: 4.4cm (nl<5.2)
___ Volume: 56mL
___ Volume Index: 27mL/m² (nl <35)

___ MRI/A brain
IMPRESSION:  
1.  Acute small infarction on the left pontomedullary junction 
measuring 
approximately 2.5 x 2.5 mm in transverse dimension (series 302, 
image 6). 
2.  Complete occlusion of the left vertebral artery, better 
depicted on the same date CTA.  
3.  Patent major vascular intracranial structures, with no 
evidence of flow stenotic lesions or aneurysms. 
4.  There is no evidence of acute intracranial hemorrhage or 
mass effect.

CTA H/N:
IMPRESSION: 
1. No acute intracranial abnormalities on noncontrast head CT. 
2. No evidence of abnormal brain perfusion. 
3. Complete occlusion of the left vertebral artery throughout 
the majority of its course due to the patient's known 
dissection.  There is reconstitution of the distal left cervical 
vertebral artery with trickle flow, however the V4 segment is 
not visualized.  Overall, this is unchanged compared to the CTA 
with the same date. 
4. No other evidence of large vessel occlusion, stenosis, 
aneurysm, or 
dissection.  No internal carotid artery stenosis by NASCET 
criteria. 
 

 
Brief Hospital Course:
___ PMH HTN, MVC last year with known L vert dissection (found 
on imaging in ___ in setting of headaches), who 
developed acute onset vertigo, L face numbness, and ataxia who 
was found to have an acute left inferior cerebellar peduncle 
infarct.

#Left inferior cerebellar peduncle infarct
Patient has a known left vertebral artery dissection with repeat 
CTA here showing minimal to no flow through the V1, V2 and V4 
segments, most likely due to MVA in ___. Exam is notable for 
nystagmus in multiple directions, and dysmetria more prominent 
on the L, he also has decreased sensation to light touch in the 
L hemibody. Risk factor labs show HbA1c 5.9, LDL 144. He was 
started on ASA 325mg daily and atorvastatin 80mg daily.
-neuro checks q4h
-allow BP to autoregulate
- will complement workup with Ziopatch as outpatient

#HTN
Allow SBP to autoregulate but goal <180. Hold home lisinopril. 
Halve home metoprolol.  
- Hydralazine 10 mg IV q6h prn SBP > 180   
- Trans-thoracic echo  

#Complex regional pain syndrome
Secondary to work-related injury.
-Continue home oxcarbazepine and oxycodone

==========
Transitional Issues:
-F/u with PCP, neurology
-___ after 3 weeks

==========
AHA/ASA Core Measures for Ischemic Stroke and Transient Ischemic 
Attack  
1. Dysphagia screening before any PO intake? (x) Yes, confirmed 
done - () Not confirmed () No. If no, reason why:  
2. DVT Prophylaxis administered? x() Yes - () No. If no, why not 
(I.e. bleeding risk, hemorrhage, etc.)  
3. Antithrombotic therapy administered by end of hospital day 2? 
(x) Yes - () No. If not, why not? (I.e. bleeding risk, 
hemorrhage, etc.)
4. LDL documented? x() Yes (LDL = 144) - () No  
5. Intensive statin therapy administered? (simvastatin 80mg, 
simvastatin 80mg/ezetemibe 10mg, atorvastatin 40mg or 80 mg, 
rosuvastatin 20mg or 40mg, for LDL > 70) (x) Yes - () No [if LDL 
>70, reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
6. Smoking cessation counseling given? () Yes - (x) No [reason 
(x) non-smoker - () unable to participate]  
7. Stroke education (personal modifiable risk factors, how to 
activate EMS for stroke, stroke warning signs and symptoms, 
prescribed medications, need for followup) given in written 
form? (x) Yes - () No  
8. Assessment for rehabilitation or rehab services considered? 
(x) Yes - () No. If no, why not? (I.e. patient at baseline 
functional status)
9. Discharged on statin therapy? (x) Yes - () No [if LDL >70, 
reason not given:  
 [ ] Statin medication allergy  
 [ ] Other reasons documented by physician/advanced practice 
nurse/physician ___ (physician/APN/PA) or pharmacist  
 [ ] LDL-c less than 70 mg/dL  
10. Discharged on antithrombotic therapy? (x) Yes [Type: (x) 
Antiplatelet - () Anticoagulation] - () No  
11. Discharged on oral anticoagulation for patients with atrial 
fibrillation/flutter? () Yes - (x) No - If no, why not (I.e. 
bleeding risk, etc.) (x) N/A  

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 10 mg PO DAILY 
2. Metoprolol Succinate XL 25 mg PO DAILY 
3. OXcarbazepine 900 mg PO BID 
4. Pantoprazole 40 mg PO Q24H 
5. OxyCODONE (Immediate Release) 10 mg PO Q8H:PRN Pain - Severe 

 
Discharge Medications:
1.  Aspirin 81 mg PO DAILY 
RX *aspirin 81 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
2.  Atorvastatin 80 mg PO QPM 
RX *atorvastatin 80 mg 1 tablet(s) by mouth once a day Disp #*30 
Tablet Refills:*3 
3.  Clopidogrel 75 mg PO DAILY 
RX *clopidogrel 75 mg 1 tablet(s) by mouth once a day Disp #*19 
Tablet Refills:*0 
4.  Prochlorperazine 10 mg PO Q6H 
RX *prochlorperazine maleate 10 mg 1 tablet(s) by mouth every 
six (6) hours Disp #*30 Tablet Refills:*0 
5.  Lisinopril 10 mg PO DAILY  
6.  Metoprolol Succinate XL 25 mg PO DAILY  
7.  OXcarbazepine 900 mg PO BID  
8.  OxyCODONE (Immediate Release) 10 mg PO Q8H:PRN Pain - Severe 
 
9.  Pantoprazole 40 mg PO Q24H  
10.Outpatient Physical Therapy
___ yr M who presented with vertigo and n/v d/t L medullary 
infarct

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left inferior cerebellar peduncle infart

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
You were hospitalized due to symptoms of dizziness, face 
numbness and vomiting resulting from an ACUTE ISCHEMIC STROKE, a 
condition where a blood vessel providing oxygen and nutrients to 
the brain is blocked by a clot. The brain is the part of your 
body that controls and directs all the other parts of your body, 
so damage to the brain from being deprived of its blood supply 
can result in a variety of symptoms.  
Stroke can have many different causes, so we assessed you for 
medical conditions that might raise your risk of having stroke. 
In order to prevent future strokes, we plan to modify those risk 
factors. Your risk factors are:  
 High blood pressure
 High cholesterol  
We are changing your medications as follows:  
 START aspirin
 START atorvastatin 
 TAKE ___ for 3 weeks (Stop ___
Please take your other medications as prescribed.  
Please follow up with Neurology and your primary care physician 
as listed below.  
If you experience any of the symptoms below, please seek 
emergency medical attention by calling Emergency Medical 
Services (dialing 911). In particular, since stroke can recur, 
please pay attention to the sudden onset and persistence of 
these symptoms:  
 - Sudden partial or complete loss of vision  
 - Sudden loss of the ability to speak words from your mouth  
 - Sudden loss of the ability to understand others speaking to 
you  
 - Sudden weakness of one side of the body  
 - Sudden drooping of one side of the face  
 - Sudden loss of sensation of one side of the body  

You may return to work after 2 weeks. If you have any concerns 
or ongoing symptoms, please see your PCP, who will then 
determine if you need to be seen by us before your scheduled 
appointment.

STOP ___ ___

 Sincerely,  
 Your ___ Neurology Team  

 
Followup Instructions:
___